US09278931B2
B) N-[4-(trans-2-aminocyclopropyl)phenyl]biphenyl-4-carboxamide hydrochloride
tert-Butyl(trans-2-{4-[(biphenyl-4-ylcarbonyl)amino]phenyl}cyclopropyl)carbamate (154 mg) was dissolved in 4N hydrochloric acid/ethyl acetate solution (2 mL), and the mixture was stirred at room temperature for 2 hr. The solvent was evaporated under reduced pressure to give the title compound (81.9 mg).

reactant | tert-Butyl(trans-2-{4-[(biphenyl-4-ylcarbonyl)amino]phenyl}cyclopropyl)carbamate | 154 mg | C(C)(C)(C)OC(N[C@H]1[C@@H](C1)C1=CC=C(C=C1)NC(=O)C1=CC=C(C=C1)C1=CC=CC=C1)=O | C27H28N2O3
reactant | hydrochloric acid ethyl acetate | 4N, 2 mL | Cl.C(C)(=O)OCC
product | N-[4-(trans-2-aminocyclopropyl)phenyl]biphenyl-4-carboxamide hydrochloride | 81.9 mg | Cl.N[C@H]1[C@@H](C1)C1=CC=C(C=C1)NC(=O)C1=CC=C(C=C1)C1=CC=CC=C1 | InChI=1S/C22H20N2O.ClH/c23-21-14-20(21)17-10-12-19(13-11-17)24-22(25)18-8-6-16(7-9-18)15-4-2-1-3-5-15;/h1-13,20-21H,14,23H2,(H,24,25);1H/t20-,21+;/m0./s1
